US07951828B1
Step 3: Production of 4-formyl-N-(methoxyiminomethyl)-2-methyl benzoic acid amide
In a solution of 0.20 g of 4-bromo-N-(methoxyiminomethyl)-2-methyl benzoic acid amide in 5 ml of N,N-dimethylformamide, 0.065 g of sodium formate and 0.026 g of dichlorobis(triphenylphosphine) palladium (II) were added, and stirred under carbon monoxide atmosphere at 120° C. for 1.5 hour. After the completion of the reaction, the reaction mixture was left and cooled to room temperature, and poured in 30 mL of water, and extracted with ethyl acetate (20 mL×2). The combined organic phases were washed with water, and dehydrated with and dried over saturated sodium chloride aqueous solution and then anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that were eluated with ethyl acetate-hexane (gradient of 1:3 to 1:1) to obtain 0.071 g of the aimed product as colorless oily substance.

reactant | 4-bromo-N-(methoxyiminomethyl)-2-methyl benzoic acid amide | 0.20 g | BrC1=CC(=C(C(=O)NC=NOC)C=C1)C | C10H11BrN2O2
reactant | sodium formate | 0.065 g | C(=O)[O-].[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 30 mL | O | H2O
product | 4-formyl-N-(methoxyiminomethyl)-2-methyl benzoic acid amide | 0.071 g | C(=O)C1=CC(=C(C(=O)NC=NOC)C=C1)C | C11H12N2O3
